US07737149B2
5-[(3R,5S)-4-(cyanomethyl)-3,5-dimethylpiperazin-1-yl]-N-[5-[(3,5-dimethoxyphenyl)methoxy]-2H-pyrazol-3-yl]pyrazine-2-carboxamide
5-Chloro-N-[5-[(3,5-dimethoxyphenyl)methoxy]-2H-pyrazol-3-yl]pyrazine-2-carboxamide (273 mg, 0.70 mmol) was added in one portion to a 3:1 mixture of (2R,6S)-1,2,6-trimethylpiperazine and 2-[(2S,6R)-2,6-dimethylpiperazin-1-yl]acetonitrile (180 mg, 1.40 mmol) in anhydrous dimethylsulfoxide (1.40 ml) at 25° C. The resulting solution was stirred at ambient temperature for 2 h. The reaction was incomplete and N-ethyldiisopropylamine (0.24 ml, 1.40 mmol) was added and the solution was stirred at 60° C. for a further 2 h. The reaction mixture was diluted with methanol (20 mL) and purified by ion exchange chromatography, using an SCX column. The desired product was eluted from the column using 7M NH3/MeOH to afford impure material. The concentrated eluent was purified by silica column chromatography, eluting with a gradient of 0 to 5% 7M NH3/MeOH in DCM. Pure fractions were evaporated to dryness to afford the title compound (65 mg, 18%) as a yellow solid.

reactant | 5-Chloro-N-[5-[(3,5-dimethoxyphenyl)methoxy]-2H-pyrazol-3-yl]pyrazine-2-carboxamide | 0.70 mmol, 273 mg | ClC=1N=CC(=NC1)C(=O)NC=1NN=C(C1)OCC1=CC(=CC(=C1)OC)OC | C17H16ClN5O4
reactant | (2R,6S)-1,2,6-trimethylpiperazine | CN1[C@@H](CNC[C@@H]1C)C | C7H16N2
reactant | 2-[(2S,6R)-2,6-dimethylpiperazin-1-yl]acetonitrile | 1.40 mmol, 180 mg | C[C@@H]1N([C@@H](CNC1)C)CC#N | C8H15N3
reactant | N-ethyldiisopropylamine | 1.40 mmol, 0.24 ml | C(C)N(C(C)C)C(C)C | C8H19N
solvent | dimethylsulfoxide | 1.40 ml | CS(=O)C | C2H6OS
solvent | methanol | 20 mL | CO | CH4O
product | 5-[(3R,5S)-4-(cyanomethyl)-3,5-dimethylpiperazin-1-yl]-N-[5-[(3,5-dimethoxyphenyl)methoxy]-2H-pyrazol-3-yl]pyrazine-2-carboxamide | 65 mg, 18% | C(#N)CN1[C@@H](CN(C[C@@H]1C)C=1N=CC(=NC1)C(=O)NC=1NN=C(C1)OCC1=CC(=CC(=C1)OC)OC)C | C25H30N8O4
